US04925838
To a solution of (2S,4S) 2-[(4-azidopiperizin-1-yl)methyl]-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (3.76 g) in pyridine (12 ml) was added triphenylphosphine (2.38 g) and the mixture was stirred at ambient temperature for 1 hour. To the reaction mixture was added concentrated ammonia (0.76 ml) and the mixture was allowed to stand overnight at ambient temperature. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in ethyl acetate (100 ml). The solution was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (100 g) eluting with a mixture of chloroform and methanol (10:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-2-[(4-aminopiperizin-1-yl)methyl]-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (2.66 g).

reactant | (2S,4S) 2-[(4-azidopiperizin-1-yl)methyl]-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 3.76 g | N(=[N+]=[N-])N1CCN(CC1)C[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C36H37N7O4S
reactant | triphenylphosphine | 2.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ammonia | 0.76 ml | N | H3N
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | (2S,4S)-2-[(4-aminopiperizin-1-yl)methyl]-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 2.66 g | NN1CCN(CC1)C[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C36H39N5O4S
